US05037961
Procedure: 3-Aminostyrene
135 g (1 mol) of 3-aminoacetophenone are suspended in 1,000 ml of isopropanol, and 19 g (0.5 mol) of sodium borohydride are slowly added. The reaction mixture is stirred at room temperature for 48 hours and then brought to a pH of 5 with concentrated hydrochloric acid, while cooling with ice. The salt which is precipitated is filtered off with suction, and the slightly reddish solution is concentrated on a rotary evaporator under a water pump vacuum. The desired 1-(3-aminophenyl)ethanol crystallizes overnight in the cold, is filtered off with suction and dried.

reactant | 3-aminoacetophenone | 1 mol, 135 g | CC(=O)C1=CC(=CC=C1)N | C8H9NO
reactant | sodium borohydride | 0.5 mol, 19 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | 1,000 ml | C(C)(C)O | C3H8O
product | 3-Aminostyrene | NC=1C=C(C=C)C=CC1 | C8H9N
